US06413938B1
2,4-Dibromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
To a suspension of 2,4-dibromo-5,6-dichloro-1H-benzimidazole (0.35 g, 1 mmol), in acetonitrile (5 mL) was added N,O-bis(trimethylsilyl)acetamide (0.25 mL, 1 mmol). The resulting mixture was allowed to stir at 70° C. for 15 min, followed by the addition of 1,2,3-tri-O-acetyl-5-deoxyribofuranose (0.31 g, 1.2 mmol) in acetonitrile (5 mL) and trimethylsilyltrifluoromethane sulfonate (0.25 mL, 1.3 mmol). The mixture was allowed to stir at 70° C. for 30 min and was then allowed to cool to RT. The mixture was diluted with ethyl acetate, washed with a saturated aqueous NaHCO3 solution, dried over NaSO4 and the solvents were removed by rotary evaporation. The product was purified by flash chromatography using methylene chloride then 1:1 methylene chloride/chloroform followed by recrystallization from methanol to provide 0.35 g (63%) of the title compound as white crystals: m.p. 152-154° C.; 1H NMR (DMSO-d6) δ: 8.16 (s, 1H), 6.15 (d, 1H), 5.63 (t, 1H), 5.27 (dd, 1H), 4.26 (m, 1H), 2.13 (s, 3H), 2.02 (s, 3H), 1.51 (d, 3H).

reactant | 2,4-dibromo-5,6-dichloro-1H-benzimidazole | 1 mmol, 0.35 g | BrC1=NC2=C(N1)C=C(C(=C2Br)Cl)Cl | C7H2Br2Cl2N2
reactant | N,O-bis(trimethylsilyl)acetamide | 1 mmol, 0.25 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 1,2,3-tri-O-acetyl-5-deoxyribofuranose | 1.2 mmol, 0.31 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | trimethylsilyltrifluoromethane sulfonate | 1.3 mmol, 0.25 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,4-Dibromo-5,6-dichloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.35 g, 63% | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C(=C2Br)Cl)Cl | C16H14Br2Cl2N2O5
